US03951976
Preparation of Tetrahydro-1-(5-trifluoromethyl-1,3,4-thiadiazol-2-yl)-3-methyl-6-[N-methyl-N-(3-chloromethylphenyl)carbamoyloxy]-2(1H)-pyrimidinone
Tetrahydro-1-(5-trifluoromethyl-1,3,4-thiadiazol-2-yl)-3-methyl-6-hydroxy-2(1H)-pyrimidinone (0.05 mole), N-methyl-N-(3-chloromethylphenyl)carbamoyl chloride (0.06 mole), pyridine (0.06 mole) and toluene (150 ml) are charged into a glass reaction vessel equipped with a mechanical stirrer, thermometer and reflux condenser. The reaction mixture is heated at reflux with stirring for a period of about 3 hours. After this time the reaction mixture is cooled to room temperature and is filtered to remove pyridine hydrochloride. The filtrate is then washed with water, dried over anhydrous magnesium sulfate and stripped of solvent leaving a residue. The residue is recrysallized to yield the desired product tetrahydro-1-(5-trifluoromethyl-1,3,4-thiadiazol-2-yl)-3-methyl-6-[N-methyl-N-(3-chloromethylphenyl)carbamoyloxy]-2(1H)-pyrimidinone.

reactant | Tetrahydro-1-(5-trifluoromethyl-1,3,4-thiadiazol-2-yl)-3-methyl-6-hydroxy-2(1H)-pyrimidinone | 0.05 mole | FC(C1=NN=C(S1)N1C(N(CCC1O)C)=O)(F)F | C8H9F3N4O2S
reactant | N-methyl-N-(3-chloromethylphenyl)carbamoyl chloride | 0.06 mole | CN(C(=O)Cl)C1=CC(=CC=C1)CCl | C9H9Cl2NO
reactant | pyridine | 0.06 mole | N1=CC=CC=C1 | C5H5N
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | tetrahydro-1-(5-trifluoromethyl-1,3,4-thiadiazol-2-yl)-3-methyl-6-[N-methyl-N-(3-chloromethylphenyl)carbamoyloxy]-2(1H)-pyrimidinone | FC(C1=NN=C(S1)N1C(N(CCC1OC(N(C1=CC(=CC=C1)CCl)C)=O)C)=O)(F)F | C17H17ClF3N5O3S
